US06156783
Methyl 2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylate
The title compound was prepared from 2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylic acid (D13) by stirring a DMF solution together with iodomethane and potassium carbonate for 3 hours, followed by dilution with water and extraction into ethyl acetate.

reactant | 2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylic acid | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)O | C18H17NO3
reactant | iodomethane | IC | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Methyl 2'-methyl-4'-(2-oxopyrrolidin-1-yl)biphenyl-4-carboxylate | CC1=C(C=CC(=C1)N1C(CCC1)=O)C1=CC=C(C=C1)C(=O)OC | C19H19NO3
